US20010006969A1
4-(1-Adamantylamino)-2-allylamino-6-nitroquinazoline
To 82 mg (0.25 mmol) of 4-(l-adamantylamino)-2-chloro-6-nitroquinazoline was added 1.00 ml (13.33 mmol) of allylamine, and the resulting mixture was stirred at room temperature overnight. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 77 mg (88.7%) of the title compound.

reactant | 4-(l-adamantylamino)-2-chloro-6-nitroquinazoline | 0.25 mmol, 82 mg | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=NC3=CC=C(C=C23)[N+](=O)[O-])Cl | C18H19ClN4O2
reactant | allylamine | 13.33 mmol, 1.00 ml | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 4-(1-Adamantylamino)-2-allylamino-6-nitroquinazoline | 77 mg, 88.7% | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=NC3=CC=C(C=C23)[N+](=O)[O-])NCC=C | C21H25N5O2
